US08871753B2
Step D: tert-Butyl [4-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate
To a solution of tert-butyl {4-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate (160 mg, 0.51 mmol) and 2,4,5-trichloropyrimidine (98.3 mg, 0.54 mol) in N,N-dimethylformamide (2.3 mL) was added potassium carbonate (212 mg, 1.53 mmol). The resultant mixture was stirred at room temperature for 4 hours. The reaction mixture was filtered first to remove K2CO3, followed by quenching with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with water and then dried (Na2SO4), filtered and concentrated to give the residue, which was purified by trituration with cold EtOAc to give the desired product (123 mg, 36%) as an off-white powder. LCMS for C22H24Cl2N5O2 (M+H)+: m/z=460.1, 462.0.

reactant | tert-butyl {4-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate | 0.51 mmol, 160 mg | NC=1C=C(C=CC1)CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C18H23N3O2
reactant | 2,4,5-trichloropyrimidine | 0.54 mol, 98.3 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 1.53 mmol, 212 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.3 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [4-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 123 mg, 36% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
